US06107329
5-Fluoro-1H-indole-2-carboxylic acid [(1S)-(4-fluoro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide
(S)-2-Amino-3-(4-fluoro-phenyl)-1-(4-hydroxy-piperidin- 1-yl)-propan-1-one hydrochloride (0.5 mmol) and 5-fluoro-1H-indole-2-carboxylic acid (0.5 mmol) were coupled according to Procedure A. The crude product was triturated once with 1:1 ether-hexanes and once with hexanes. The resulting solid was boiled in ethyl acetate, the resulting suspension filtered, and the collected solid dried. Yield 103 mg, 48%; HPLC (60/40) 3.69 minutes (95%); PBMS 428 (MH+, 100%);

reactant | (S)-2-Amino-3-(4-fluoro-phenyl)-1-(4-hydroxy-piperidin- 1-yl)-propan-1-one hydrochloride | 0.5 mmol | Cl.N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)F
reactant | 5-fluoro-1H-indole-2-carboxylic acid | 0.5 mmol | FC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6FNO2
product | 5-Fluoro-1H-indole-2-carboxylic acid [(1S)-(4-fluoro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide | FC1=CC=C(C[C@@H](C(=O)N2CCC(CC2)O)NC(=O)C=2NC3=CC=C(C=C3C2)F)C=C1 | C23H23F2N3O3
